US04931444
A mixture of 5 parts of N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]thiourea, 3 parts of 2-chloro-1-phenylethanone, 1.7 parts of sodium acetate and 100 parts of acetic acid was stirred for 4 hours at 80° C. After cooling, the reaction mixture was evaporated and the residue was stirred in 130 parts of dichloromethane. The whole was neutralised with a sodium hydrogen carbonate solution. The precipitated product was filtered off, washed with water and dichloromethane and crystallized from 1,4-dioxane. The product was filtered off and dried, yielding 4.5 parts (69.6%) of N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine; mp. 269.7° C. (int. 2).

reactant | N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]thiourea | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(=S)N | C18H22N4OS
reactant | 2-chloro-1-phenylethanone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-4-phenyl-2-thiazolamine | 69.6% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C26H26N4OS
